US07442797B2
In a nitrogen atmosphere, a n-pentane solution of t-butyllithium (17.8 ml, 1.60M, 28.5 mmol) was dropwise added to tetrahydrofuran cooled to −70° C., then a tetrahydrofuran (5 ml) solution of 2-bromopyridine (1.2 ml, 12.9 mmol) was added thereto while 15 minutes, after a dropwise, the mixture was stirred at −70° C. for 30 minutes. Then, a tetrahydrofuran solution of zinc chloride (31.8 ml, 0.50 M, 15.9 mmol) was added to the mixture while 10 minutes. Thereafter, the temperature of the reaction mixture was allowed to warm to room temperature while 1 hour, tetrakis(triphenylphosphine)palladium (203 mg) and 3,3′-dibromobenzophenone (2.0 g, 5.88 mmol) were successively added thereto, the reaction mixture was stirred under reflux for 18 hours. After the reaction mixture was allowed to cool, then the mixture was poured into a mixture of ethylenediaminetetraacetic acid (7.0 g)/an aqueous saturated sodium hydrogen carbonate solution (210 ml), an organic layer was separated, furthermore an aqueous layer was extracted with toluene. The organic layer was combined, and the solvent was distilled off, and the residue was purified by silica gel column chromatography and recrystallization, thereby obtaining 1.5 g of carbonylbis[3-(2-pyridyl)benzene as white powder. Yield: 75.8%.

reactant | t-butyllithium | 28.5 mmol, 1.60M, 17.8 ml | C(C)(C)(C)[Li]
reactant | 2-bromopyridine | 12.9 mmol, 1.2 ml | BrC1=NC=CC=C1 | C5H4BrN
reactant | 3,3′-dibromobenzophenone | 5.88 mmol, 2.0 g | BrC=1C=C(C(=O)C2=CC(=CC=C2)Br)C=CC1 | C13H8Br2O
reactant | ethylenediaminetetraacetic acid | 210 ml, 7.0 g | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
catalyst | zinc chloride | 15.9 mmol, 0.50 M, 31.8 ml | [Cl-].[Zn+2].[Cl-]
catalyst | tetrakis(triphenylphosphine)palladium | 203 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | n-pentane | CCCCC | C5H12
product | carbonylbis[3-(2-pyridyl)benzene] | Yield: 75.8% | C(=O)(C1=CC(=CC=C1)C1=NC=CC=C1)C1=CC(=CC=C1)C1=NC=CC=C1 | C23H16N2O
